subckt inv_psw_x1 VDD VSS VDDR VBP VBN X A
* Power-management helper: ref_lib-style rails listed first.
I1P (X A VDDR VBP) pmos w=2u l=100n
I1N (X A VSS VBN) nmos w=1u l=100n
ends inv_psw_x1
